US08580841B2
Step E: Preparation of 2-(7-(3-Cyano-4-(trifluoromethoxy)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
Ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (0.100 g, 0.386 mmol) and cesium carbonate (0.138 g, 0.424 mmol) were dissolved in DMF (1.0 mL), stirred at room temperature for 10 min, followed by addition of 5-(chloromethyl)-2-(trifluoromethoxy)benzonitrile (0.100 g, 0.424 mmol) in DMF (0.300 mL) at 0° C. This mixture was stirred at room temperature for 3 h. The reaction mixture was quenched with water and extracted with ethylacetate (2×50 mL). The organic phase was washed with brine and concentrated. The residue was taken up in dioxane (4 mL) before aqueous 1 N LiOH (1.3 mL) was added. The mixture was stirred at room temperature for 2.5 h before it was quenched with water and acidified to pH 3 using aqueous 3 N HCl. The mixture was purified by HPLC to give the title compound (0.040 g). LCMS m/z=431.2 [M+H]+, 1H NMR (500 MHz, DMSO-d6) δ ppm 2.00-2.20 (m, 1H), 2.01-2.21 (m, 1H), 2.23-2.43 (m, 1H), 2.55-2.83 (m, 4H), 3.33-3.57 (m, 1H), 5.16 (s, 2H), 6.73 (dd, J=8.83, 2.52 Hz, 1H), 6.94 (s, 1H), 7.21 (d, J=8.83 Hz, 1H), 7.69 (dd, J=8.67, 1.42 Hz, 1H), 7.94 (dd, J=8.67, 2.05 Hz, 1H), 8.09 (s, 1H), 10.40 (s, 1H).

reactant | Ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.386 mmol, 0.100 g | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | cesium carbonate | 0.424 mmol, 0.138 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(chloromethyl)-2-(trifluoromethoxy)benzonitrile | 0.424 mmol, 0.100 g | ClCC=1C=CC(=C(C#N)C1)OC(F)(F)F | C9H5ClF3NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.300 mL | CN(C)C=O | C3H7NO
product | 2-(7-(3-Cyano-4-(trifluoromethoxy)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 0.040 g | C(#N)C=1C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=CC1OC(F)(F)F | C22H17F3N2O4
